US07635715B2
Step H: Preparation of 1,1-Dimethylethyl N((6-chloro-1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate
Ethyl 6-chloro-1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalene-3-carboxylate (0.165 g, 0.54 mmol) was dissolved in 1,4-dioxane (30 mL), and glycine tert-butyl ester hydrochloride (0.090 g, 0.54 mmol) and TEA (TEA) (0.11 mL, 0.81 mmol) were added. The reaction was stirred overnight at 70° C. The reaction was stirred for 18 hours. Another 0.5 equivalents of glycine and one equivalent of TEA were added, and the reaction was stirred at 105° C. for 1 hour. The solvent was then removed, and the crude residue was dissolved in EtOAc and washed with water (3×25 mL), dried with MgSO4, and concentrated. The crude product was purified by silica flash chromatography using the 10-50% EtOAc/hexanes. MS m/e=392 (M+H)+.

reactant | Ethyl 6-chloro-1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalene-3-carboxylate | 0.54 mmol, 0.165 g | ClC=1C=C2C(=C(C(C(C2=CC1)(C)C#N)=O)C(=O)OCC)O | C15H12ClNO4
reactant | glycine tert-butyl ester hydrochloride | 0.54 mmol, 0.090 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | glycine | 0.5 equivalents | NCC(=O)O | C2H5NO2
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl N((6-chloro-1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | ClC=1C=C2C(=C(C(C(C2=CC1)(C)C#N)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H19ClN2O5
